US07459562B2
B) N-(3-(4-(4-Amino-2-fluorophenoxy)pyridin-3-yl)prop-2-ynyl)-2-(4-hydroxypiperidin-1-yl)acetamide
The title compound was prepared by the reduction N-(3-(4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)prop-2-ynyl)-2-(4-hydroxypiperidin-1-yl)acetamide (33 mg, 0.077 mmol) in a manner similar to that of Step E of Example 35 using Fe (powder, 67 mg, 1.21 mmol), NH4Cl (128 mg, 2.42 mmol). The product (30 mg, 100%) was obtained as a yellow oil which was used directly in the subsequent step. MS(ESI+): m/z 399.27 (M+H)+.

reactant | N-(3-(4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)prop-2-ynyl)-2-(4-hydroxypiperidin-1-yl)acetamide | 0.077 mmol, 33 mg | FC1=C(OC2=C(C=NC=C2)C#CCNC(CN2CCC(CC2)O)=O)C=CC(=C1)[N+](=O)[O-] | C21H21FN4O5
reactant | NH4Cl | 2.42 mmol, 128 mg | [NH4+].[Cl-]
catalyst | Fe | 1.21 mmol, 67 mg | [Fe] | Fe
product | N-(3-(4-(4-Amino-2-fluorophenoxy)pyridin-3-yl)prop-2-ynyl)-2-(4-hydroxypiperidin-1-yl)acetamide | NC1=CC(=C(OC2=C(C=NC=C2)C#CCNC(CN2CCC(CC2)O)=O)C=C1)F | C21H23FN4O3
